US07622610B2
A 2 liter flask equipped with a stirrer and nitrogen inlet was charged with N-( 2,6-diisopropyl-phenyl)-malonamic acid (100 g, 0.380 moles) and N-benzylisopropylamine (82 mL, 74 g, 0.5 moles). The resulting solution was stirred in an ice-acetone bath until cooled to −5° C., then EDAC (80 g, 0.42 moles) was added, followed by triethylamine (75 mL, 54 g, 0.54 moles). The mixture was stirred and allowed to come to room temperature, then left overnight. TLC (ethyl acetate: methanol, 95:5) showed unreacted acid still present. Another 8 g of EDAC and 15 mL of triethylamine were added, and the mixture was stirred at room temperature 4 h longer. TLC showed no change, and the reaction was worked up by washing, first with 2N HCl (500 mL), then 2N NaOH (acidification of the basic wash precipitated ˜13 g of the unreacted malonamic acid). After the acid and base washes, the organic solution was washed with water (500 mL), then brine (250 mL). It was then dried over magnesium sulfate, filtered and concentrated to a thick oil. The crude product was taken up in a small volume of warm heptane and filtered through ˜500 g of silica gel, which was rinsed with 10% ethyl acetate in heptane until all the desired product had come through. This left a thin layer of polar impurities at the top of the silica gel, and gave a nearly pure solution of the product. Most of the solvent was removed on the Rotavap, to remove the ethyl acetate, and then the oil was dissolved in warm heptane (1 liter). The solution was allowed to cool, seeded with a few crystals of the form A polymorph, and stirred at room temperature until precipitation of product was complete. The suspension was further stirred for 24 h, then chilled to 0° C. and filtered with suction. The collected product was air dried at room temperature to give 98 g of the Form A polymorph of N-benzyl-N′-(2,6-diisopropyl-phenyl)-N-isopropyl-malonamide.Melting point was 102.3° C., as determined by DSC, as described above.

reactant | N-( 2,6-diisopropyl-phenyl)-malonamic acid | 0.380 moles, 100 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(CC(=O)O)=O | C15H21NO3
reactant | N-benzylisopropylamine | 0.5 moles, 82 mL, 74 g | C(C1=CC=CC=C1)NC(C)C | C10H15N
reactant | EDAC | 0.42 moles, 80 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | EDAC | 8 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.54 moles, 75 mL, 54 g | C(C)N(CC)CC | C6H15N
product | N-benzyl-N′-(2,6-diisopropyl-phenyl)-N-isopropyl-malonamide | C(C1=CC=CC=C1)N(C(CC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O)C(C)C | C25H34N2O2
